US09193741B2
Synthesis of 4-Chloro-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine
A solution of 6-bromo-4-chlorothieno[2,3-d]pyrimidine (0.12 g, 0.48 mmol), 4-fluorophenylboronic acid (67 mg, 0.48 mmol), K2CO3 (0.266 g, 1.92 mmol) and Pd(PPh3)4 in dioxane/H2O (3:1, 3 ml) was refluxed under N2 for 2 hours. After cooling to room temperature, 1N HCl was added slowly to neutralize the mixture to pH=7-8. The mixture was extracted with CH2Cl2, washed with water and brine and dried over Na2SO4. After removing the solvents under reduced pressure, the crude residue was purified by silica gel chromatography (hexane/EtOAc 30:1) to yield the title compound as a pale yellow solid (60 mg, 47%).

reactant | 6-bromo-4-chlorothieno[2,3-d]pyrimidine | 0.48 mmol, 0.12 g | BrC1=CC2=C(N=CN=C2Cl)S1 | C6H2BrClN2S
reactant | 4-fluorophenylboronic acid | 0.48 mmol, 67 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | K2CO3 | 1.92 mmol, 0.266 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N | Cl | ClH
solvent | dioxane H2O | 3 ml | O1CCOCC1.O
catalyst | Pd(PPh3)4 | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Chloro-6-(4-fluorophenyl)thieno[2,3-d]pyrimidine | 60 mg, 47% | ClC=1C2=C(N=CN1)SC(=C2)C2=CC=C(C=C2)F | C12H6ClFN2S
